US07977371B2
2-Aminocarbonylamino-5-(3-chlorophenyl)-4-(hydroxymethyl)pyrrole-3-carboxamide (Compound No. 18-1)
Sodium borohydride (18 mg, 0.48 mmol) was added to a solution of 2-aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide (Compound No. 17-1, 50 mg, 0.16 mmol) in the mixed solvent (tetrahydrofuran methanol=2:1, 1.5 mL) and the mixture was stirred at room temperature for 4 hours. Saturated aqueous ammonium chloride solution (50 mL) was added to the reaction solution, extracted with ethyl acetate (50 mL). The organic layer was dried over anhydrous magnesium sulfate, and the solvent was removed under reduced pressure. The obtained solid was washed with chloroform (15 mL) and dried under reduced pressure to give the target compound (19 mg) as an orange solid (Yield 37%).

reactant | Sodium borohydride | 0.48 mmol, 18 mg | [BH4-].[Na+]
reactant | 2-aminocarbonylamino-5-(3-chlorophenyl)-4-formylpyrrole-3-carboxamide | NC(=O)NC=1NC(=C(C1C(=O)N)C=O)C1=CC(=CC=C1)Cl | C13H11ClN4O3
reactant | tetrahydrofuran methanol | O1C(CCC1)CO | C5H10O2
solvent | ammonium chloride | 50 mL | [Cl-].[NH4+]
product | 2-Aminocarbonylamino-5-(3-chlorophenyl)-4-(hydroxymethyl)pyrrole-3-carboxamide | 19 mg, Yield 37% | NC(=O)NC=1NC(=C(C1C(=O)N)CO)C1=CC(=CC=C1)Cl | C13H13ClN4O3
